### PR TITLE
[Merged by Bors] - feat(Algebra/Star): define `unitary R →* StarAlgEquiv S R R`

### PR DESCRIPTION
**Pull request by themathqueen**
Every unitary defines a star-algebra automorphism (this is an extension of a special version of `MulSemiringAction.toRingEquiv` for unitaries).

When `R = Matrix n n \bbk`, this map is surjective.

One immediate application we *can* do is change [Matrix.IsHermitian.spectral_theorem](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Matrix/Spectrum.html#Matrix.IsHermitian.spectral_theorem) to use this map.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Star/UnitaryStarAlgAut.lean [hunk 1]
```diff
@@ -0,0 +1,57 @@
...
+namespace unitary
+variable {S R : Type*} [Semiring R] [StarMul R]
+  [SMul S R] [IsScalarTower S R R] [SMulCommClass S R R]
+
+variable (S R) in
+/-- Each unitary element `u` defines a ⋆-algebra automorphism such that
+`x ↦ u * x * star u`.
+
+This is the ⋆-algebra automorphism version of a specialized version of
+`MulSemiringAction.toRingEquiv`. -/
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/UnitaryStarAlgAut.lean]:
```suggestion
`MulSemiringAction.toAlgAut`. -/
```
is much closer.

File: Mathlib/Algebra/Star/UnitaryStarAlgAut.lean [hunk 2]
```diff
@@ -0,0 +1,57 @@
...
+def toStarAlgAut : (unitary R) →* (R ≃⋆ₐ[S] R) where
+  toFun u :=
+  { toRingEquiv := MulSemiringAction.toRingEquiv (ConjAct Rˣ) R (toUnits u)
+    map_smul' _ _ := by simp [smul_comm]
+    map_star' _ := by simp [HSMul.hSMul, SMul.smul, ConjAct.ofConjAct, mul_assoc,
+      ← unitary.star_eq_inv] }
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/UnitaryStarAlgAut.lean]: A little nicer as
```suggestion
  { toRingEquiv := MulSemiringAction.toRingEquiv _ R (ConjAct.toConjAct <| toUnits u)
    map_smul' _ _ := smul_comm _ _ _ |>.symm
    map_star' _ := by
      dsimp [ConjAct.units_smul_def]
      simp [mul_assoc, ← unitary.star_eq_inv] }
```

File: Mathlib/Algebra/Star/UnitaryStarAlgAut.lean [hunk 3]
```diff
@@ -0,0 +1,57 @@
...
+/-!
+# The ⋆-algebra automorphism given by a unitary
+
+This file defines the ⋆-algebra automorphism on `R` given by a unitary `u` such that
+`x ↦ u * x * star u`.
+-/
+
+namespace unitary
+variable {S R : Type*} [Semiring R] [StarMul R]
+  [SMul S R] [IsScalarTower S R R] [SMulCommClass S R R]
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/UnitaryStarAlgAut.lean:19]:
```suggestion
  [SMul S R] [IsScalarTower S R R] [SMulCommClass R S R]
```
to match the order in `MulSemiringAction.toAlgAut`

Comment (eric-wieser) [reply Mathlib/Algebra/Star/UnitaryStarAlgAut.lean:19]: Oh nevermind, I guess that's annoying here.

File: Mathlib/Algebra/Star/UnitaryStarAlgAut.lean [hunk 4]
```diff
@@ -0,0 +1,57 @@
...
+
+variable (S R) in
+/-- Each unitary element `u` defines a ⋆-algebra automorphism such that
+`x ↦ u * x * star u`.
+
+This is the ⋆-algebra automorphism version of a specialized version of
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/UnitaryStarAlgAut.lean:25]: Perhaps you should also compare to ` MulAut.conj` here?

File: Mathlib/Algebra/Star/UnitaryStarAlgAut.lean [hunk 5]
```diff
@@ -0,0 +1,57 @@
...
+theorem toStarAlgAut_trans_toStarAlgAut (u₁ u₂ : unitary R) :
+    (toStarAlgAut S R u₁).trans (toStarAlgAut S R u₂) = toStarAlgAut S R (u₂ * u₁) :=
+  map_mul _ _ _ |>.symm
+
+theorem toStarAlgAut_symm (u : unitary R) :
+    (toStarAlgAut S R u).symm = toStarAlgAut S R (star u) := by
+  ext; simp
+
+theorem toRingEquiv_toStarAlgAut (u : unitary R) :
+    (toStarAlgAut S R u).toRingEquiv = MulSemiringAction.toRingEquiv (ConjAct Rˣ) R (toUnits u) :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/UnitaryStarAlgAut.lean]:
```suggestion
    (toStarAlgAut S R u).toRingEquiv = MulSemiringAction.toRingEquiv _ R (ConjAct.toConjAct <| toUnits u) :=
```

File: Mathlib/Algebra/Star/UnitaryStarAlgAut.lean [hunk 6]
```diff
@@ -0,0 +1,57 @@
...
+    toStarAlgAut S R u x = u * x * (star u : R) := rfl
+
+@[simp]
+theorem toStarAlgAut_symm_apply (u : unitary R) (x : R) :
+    (toStarAlgAut S R u).symm x = (star u : R) * x * u := rfl
+
+@[simp]
+theorem toStarAlgAut_trans_toStarAlgAut (u₁ u₂ : unitary R) :
+    (toStarAlgAut S R u₁).trans (toStarAlgAut S R u₂) = toStarAlgAut S R (u₂ * u₁) :=
+  map_mul _ _ _ |>.symm
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/UnitaryStarAlgAut.lean]: This is a bad simp lemma, because `map_mul` reverses it such that effectively this just replaces `trans` with `*`.

File: Mathlib/Algebra/Star/UnitaryStarAlgAut.lean (hunk 4 above)
Comment (themathqueen) [reply Mathlib/Algebra/Star/UnitaryStarAlgAut.lean:25]: hmm, but `MulAut.conj` is `G →* (G ≃* G)`

File: Mathlib/Algebra/Star/UnitaryStarAlgAut.lean [hunk 7]
```diff
@@ -0,0 +1,63 @@
...
+variable {S R : Type*} [Semiring R] [StarMul R]
+  [SMul S R] [IsScalarTower S R R] [SMulCommClass S R R]
+
+variable (S R) in
+/-- Each unitary element `u` defines a ⋆-algebra automorphism such that
+`x ↦ u * x * star u`.
+
+This is the ⋆-algebra automorphism version of a specialized version of
+`MulSemiringAction.toAlgAut`. -/
+def toStarAlgAut : (unitary R) →* (R ≃⋆ₐ[S] R) where
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/UnitaryStarAlgAut.lean]: nit:
```suggestion
def toStarAlgAut : unitary R →* (R ≃⋆ₐ[S] R) where
```

File: Mathlib/Algebra/Star/UnitaryStarAlgAut.lean [hunk 8]
```diff
@@ -0,0 +1,63 @@
...
+-/
+import Mathlib.Algebra.Ring.Action.ConjAct
+import Mathlib.Algebra.Star.StarAlgHom
+import Mathlib.Algebra.Star.Unitary
+
+/-!
+# The ⋆-algebra automorphism given by a unitary
+
+This file defines the ⋆-algebra automorphism on `R` given by a unitary `u` such that
+`x ↦ u * x * star u`.
```
Comment (eric-wieser) [inline Mathlib/Algebra/Star/UnitaryStarAlgAut.lean]:
```suggestion
This file defines the ⋆-algebra automorphism on `R` given by a unitary `u`,
`unitary.toStarAlgAut S R u`, such that `x ↦ u * x * star u`.
```

File: Mathlib/Algebra/Star/UnitaryStarAlgAut.lean (hunk 7 above)
Comment (eric-wieser) [inline Mathlib/Algebra/Star/UnitaryStarAlgAut.lean]: I wonder if this name should include `conj` somewhere, on the premise that definitions should describe _which_ operation they are, not just the type of the operation. Or is it very obvious to someone in this are which automorphism this is?

Comment (themathqueen) [reply Mathlib/Algebra/Star/UnitaryStarAlgAut.lean]: hmm surely it's obvious

Comment (themathqueen) [reply Mathlib/Algebra/Star/UnitaryStarAlgAut.lean]: Maybe an alternative would be to define a `MulSemiringAction` and then call this `MulSemiringAction.unitary_toStarAlgAut` or something along those lines. But I think this is clear enough.

File: Mathlib/Algebra/Star/UnitaryStarAlgAut.lean [hunk 9]
```diff
@@ -0,0 +1,63 @@
...
+import Mathlib.Algebra.Star.Unitary
+
+/-!
+# The ⋆-algebra automorphism given by a unitary
+
+This file defines the ⋆-algebra automorphism on `R` given by a unitary `u`,
+`unitary.toStarAlgAut S R u`, such that `x ↦ u * x * star u`.
+-/
+
+namespace unitary
```
Comment (kckennylau) [inline Mathlib/Algebra/Star/UnitaryStarAlgAut.lean]:
```suggestion
namespace Unitary
```
it seems like the `unitary` namespace has been depecrated in favour of `Unitary`.

File: Mathlib/Algebra/Star/UnitaryStarAlgAut.lean [hunk 10]
```diff
@@ -0,0 +1,63 @@
...
+-/
+import Mathlib.Algebra.Ring.Action.ConjAct
+import Mathlib.Algebra.Star.StarAlgHom
+import Mathlib.Algebra.Star.Unitary
+
+/-!
+# The ⋆-algebra automorphism given by a unitary
+
+This file defines the ⋆-algebra automorphism on `R` given by a unitary `u`,
+`unitary.toStarAlgAut S R u`, such that `x ↦ u * x * star u`.
```
Comment (kckennylau) [inline Mathlib/Algebra/Star/UnitaryStarAlgAut.lean]:
```suggestion
# The ⋆-algebra automorphism given by a unitary element

This file defines the ⋆-algebra automorphism on `R` given by a unitary `u`,
which is `unitary.toStarAlgAut S R u`, defined to be `x ↦ u * x * star u`.
```

File: Mathlib/Algebra/Star/UnitaryStarAlgAut.lean [hunk 11]
```diff
@@ -0,0 +1,63 @@
...
+    (toStarAlgAut S R u).toRingEquiv
+    = MulSemiringAction.toRingEquiv _ R (ConjAct.toConjAct <| toUnits u) :=
+  rfl
+
+theorem toAlgEquiv_toStarAlgAut {S : Type*} [CommSemiring S] [Algebra S R] (u : unitary R) :
+    (toStarAlgAut S R u).toAlgEquiv
+    = MulSemiringAction.toAlgEquiv _ R (ConjAct.toConjAct <| toUnits u) :=
+  rfl
+
+end unitary
```
Comment (themathqueen) [inline Mathlib/Algebra/Star/UnitaryStarAlgAut.lean]:
```suggestion
end Unitary
```

File: Mathlib/Algebra/Star/UnitaryStarAlgAut.lean [hunk 12]
```diff
@@ -0,0 +1,63 @@
...
+  map_one' := by ext; simp
+  map_mul' g h := by ext; simp [mul_smul]
+
+@[simp]
+theorem conjStarAlgAut_apply (u : unitary R) (x : R) :
+    conjStarAlgAut S R u x = u * x * (star u : R) := rfl
+
+@[simp]
+theorem conjStarAlgAut_symm_apply (u : unitary R) (x : R) :
+    (conjStarAlgAut S R u).symm x = (star u : R) * x * u := rfl
```
Comment (j-loreaux) [inline Mathlib/Algebra/Star/UnitaryStarAlgAut.lean]:
```suggestion
theorem conjStarAlgAut_symm_apply (u : unitary R) (x : R) :
    (conjStarAlgAut S R u).symm x = (star u : R) * x * u := rfl
```
in conjunction with ...

File: Mathlib/Algebra/Star/UnitaryStarAlgAut.lean [hunk 13]
```diff
@@ -0,0 +1,63 @@
...
+
+theorem conjStarAlgAut_trans_toStarAlgAut (u₁ u₂ : unitary R) :
+    (conjStarAlgAut S R u₁).trans (conjStarAlgAut S R u₂) = conjStarAlgAut S R (u₂ * u₁) :=
+  map_mul _ _ _ |>.symm
+
+theorem conjStarAlgAut_symm (u : unitary R) :
+    (conjStarAlgAut S R u).symm = conjStarAlgAut S R (star u) := by
+  ext; simp
```
Comment (j-loreaux) [inline Mathlib/Algebra/Star/UnitaryStarAlgAut.lean]: ... this:
```suggestion
@[simp]
theorem conjStarAlgAut_symm (u : unitary R) :
    (conjStarAlgAut S R u).symm = conjStarAlgAut S R (star u) := by
  ext; simp
```

**Review by j-loreaux — COMMENTED** [review]
bors d+
